US07163947B2
A suspension of 7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-amine (17.6 g, 57.7 mmol) in 160 mL of acetonitrile and 40 mL of glacial acetic acid was treated with 2,2-dimethoxypropane (35.5 mL, 288 mmol). The reaction mixture was heated to 100° C. under an atmosphere of nitrogen. After 16 h, the reaction was cooled to ambient temperature and concentrated under reduced pressure to yield a brown oil. The oil was dissolved in CHCl3 (200 mL). The CHCl3 solution was washed with saturated NaHCO3 solution (2×50 mL), water (50 mL) and brine (50 mL). The organic portion was then dried over Na2SO4, filtered and concentrated under reduced pressure to yield 18.4 g of N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine as a red/brown foam.

reactant | 7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-amine | 57.7 mmol, 17.6 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3N)CCC | C13H13BrN4
reactant | 2,2-dimethoxypropane | 288 mmol, 35.5 mL | COC(C)(C)OC | C5H12O2
solvent | acetonitrile | 160 mL | C(C)#N | C2H3N
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | CHCl3 | 200 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(7-bromo-2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)isopropylideneamine | 18.4 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3N=C(C)C)CCC | C16H17BrN4
